US07273936B2
A solution of acetic acid 2-(6-methyl-pyridin-2-yl)-2-oxo-1-quinolin-6-yl-ethyl ester (83 mg, 0.26 mmol), ammonium acetate (200 mg, 2.6 mmol, 10 equiv) in acetic acid (4 mL) is heated to 105° C. for 3 hours. The resulting reaction mixture is concentrated in vacuo, and reverse phase high pressure liquid chromatography (a gradient from 5-30% acetonitrile in 0.1% aqueous formic acid) provides 6-[2-Methyl-4-(6-methyl-pyridin-2-yl)-oxazol-5-yl]-quinoline.

reactant | acetic acid 2-(6-methyl-pyridin-2-yl)-2-oxo-1-quinolin-6-yl-ethyl ester | 0.26 mmol, 83 mg | CC1=CC=CC(=N1)C(C(C=1C=C2C=CC=NC2=CC1)OC(C)=O)=O | C19H16N2O3
reactant | ammonium acetate | 2.6 mmol, 200 mg, 10 equiv | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 4 mL | C(C)(=O)O | C2H4O2
product | 6-[2-Methyl-4-(6-methyl-pyridin-2-yl)-oxazol-5-yl]-quinoline | CC=1OC(=C(N1)C1=NC(=CC=C1)C)C=1C=C2C=CC=NC2=CC1 | C19H15N3O
